US04801705
(A) (S)-[1-[[[[2-[(3,4-dihydroxyphenyl)[[(phenylmethoxy)carbonyl]amino]acetyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
Freeze drying of the aqueous phase yielded, after stirring with ether, an additional 2.5 g of (S)-[1-[[[[2-[(3,4-dihydroxyphenyl)[[(t-butyloxy)carbonyl]amino]acetyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester.

reactant | (S)-[1-[[[[2-[(3,4-dihydroxyphenyl)[[(t-butyloxy)carbonyl]amino]acetyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 2.5 g | OC=1C=C(C=CC1O)C(C(=O)NNS(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)NC(=O)OC(C)(C)C | C25H30N6O11S
solvent | ether | CCOCC | C4H10O
product | (S)-[1-[[[[2-[(3,4-dihydroxyphenyl)[[(phenylmethoxy)carbonyl]amino]acetyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | OC=1C=C(C=CC1O)C(C(=O)NNS(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)NC(=O)OCC1=CC=CC=C1 | C28H28N6O11S
